US08541588B2
3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a solution of 2-pyridazin-4-yl-4-(trifluoromethyl)phenol (Preparation 712, 60.6 mg, 0.25 mmol) in dimethylsulfoxide (2.5 mL) was added 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 68, 109.2 mg, 0.25 mmol) followed by potassium carbonate (101.7 mg, 0.74 mmol). The resulting mixture was stirred overnight at room temperature under nitrogen. The reaction mixture was poured into water (125 mL), and extracted with ethyl acetate (3×25 mL). The combined organic extract was washed successively with aqueous sodium hydroxide solution (1M, 15 mL) and saturated aqueous sodium chloride solution (4×25 mL), dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo. The resulting residue was purified by column chromatography using a gradient of 25-40% v/v ethyl acetate in heptane to give the title compound as a white foam (59.7 mg, 36%).

reactant | 2-pyridazin-4-yl-4-(trifluoromethyl)phenol | 0.25 mmol, 60.6 mg | N1=NC=C(C=C1)C1=C(C=CC(=C1)C(F)(F)F)O | C11H7F3N2O
reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.25 mmol, 109.2 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
reactant | potassium carbonate | 0.74 mmol, 101.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 125 mL | O | H2O
solvent | dimethylsulfoxide | 2.5 mL | CS(=O)C | C2H6OS
product | 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 59.7 mg, 36% | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C1=CN=NC=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C29H21F3N6O5S2
